US07396833B2
Ethyl indazole-3-carboxylate (73.7 mmol) was dissolved in 20 mL concentrated sulfuric acid and the reaction mixture was cooled to 0° C. A mixture of concentrated sulfuric acid (12 mL) and 70% nitric acid (12 mL) was added dropwise over the course of 1 h. The mixture was stirred for an additional 1 h at 0° C. and was poured onto of crushed ice (200 g). The solid was collected by vacuum filtration, washed with several portions of water and dried in vacuo. The dried solid was suspended in 250 mL acetonitrile and the mixture was heated at reflux for 2 h. The mixture was allowed to cool to room temperature and the solid was collected and dried in vacuo to provide ethyl 5-nitroindazole-3-carboxylate (53%) as a colorless solid. The acid, obtained by basic hydrolysis, was coupled with the bicyclobase according to procedure A.

reactant | Ethyl indazole-3-carboxylate | 73.7 mmol | N1N=C(C2=CC=CC=C12)C(=O)OCC | C10H10N2O2
reactant | nitric acid | 12 mL | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 20 mL | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 12 mL | S(O)(O)(=O)=O | H2O4S
product | ethyl 5-nitroindazole-3-carboxylate | 53% | [N+](=O)([O-])C=1C=C2C(=NNC2=CC1)C(=O)OCC | C10H9N3O4
